US06197798B1
A solution of (5-nitro-indan-2-yl)-carbamic acid tert-butyl ester (3.52 g, 12.6 mmol) in ethanol (100 mL) is degassed and 10% palladium on carbon added. The reaction is evacuated and placed under 1 atm H2(g) for 2 h. Filtration of the reaction mixture through Celite is followed by concentration of the filtrate under reduced pressure to give (5-amino-indan-2-yl)-carbamic acid tert-butyl ester as an oil which is used directly without further purification.

reactant | (5-nitro-indan-2-yl)-carbamic acid tert-butyl ester | 12.6 mmol, 3.52 g | C(C)(C)(C)OC(NC1CC2=CC=C(C=C2C1)[N+](=O)[O-])=O | C14H18N2O4
solvent | ethanol | 100 mL | C(C)O | C2H6O
catalyst | palladium on carbon | [Pd] | Pd
product | (5-amino-indan-2-yl)-carbamic acid tert-butyl ester | C(C)(C)(C)OC(NC1CC2=CC=C(C=C2C1)N)=O | C14H20N2O2
